US08669234B2
{1-[2-[2-(4-Bromo-phenyl)-2-oxo-ethylcarbamoyl]-4-(2,2,2-trifluoro-ethyl)-piperazine-1-carbonyl]-2-methyl-propyl}-carbamic acid methyl ester (192 mg, 0.34 mmol) was dissolved in m-Xylenes (2 mL) and heated at 135° C. Solid ammonium acetate (128 mg, 1.66 mmol) was added and the reaction was stirred at 135° C. After 110 minutes, the reaction was cooled to room temperature and the volatiles were removed in vacuo. The crude material was purified via silica gel chromatography (eluent: EtOAc w MeOH 10%/hexanes) to yield the product {1-[2-[4-(4-Bromo-phenyl)-1H-imidazol-2-yl]-4-(2,2,2-trifluoro-ethyl)-piperazine-1-carbonyl]-2-methyl-propyl}-carbamic acid methyl ester (98.7 mg, 0.181 mmol): LCMS-ESI+: calc'd for C22H27BrF3N5O3: 546.4 (M+). Found: 546.0/548.2 (M+H+).

reactant | {1-[2-[2-(4-Bromo-phenyl)-2-oxo-ethylcarbamoyl]-4-(2,2,2-trifluoro-ethyl)-piperazine-1-carbonyl]-2-methyl-propyl}-carbamic acid methyl ester | 0.34 mmol, 192 mg | COC(NC(C(C)C)C(=O)N1C(CN(CC1)CC(F)(F)F)C(NCC(=O)C1=CC=C(C=C1)Br)=O)=O | C22H28BrF3N4O5
reactant | ammonium acetate | 1.66 mmol, 128 mg | C(C)(=O)[O-].[NH4+]
product | {1-[2-[4-(4-Bromo-phenyl)-1H-imidazol-2-yl]-4-(2,2,2-trifluoro-ethyl)-piperazine-1-carbonyl]-2-methyl-propyl}-carbamic acid methyl ester | 0.181 mmol, 98.7 mg | COC(NC(C(C)C)C(=O)N1C(CN(CC1)CC(F)(F)F)C=1NC=C(N1)C1=CC=C(C=C1)Br)=O | C22H27BrF3N5O3
